US08283353B2
4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-2-cyclohexylethyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution (15 mL) of 4′-{[4-(2-cyclohexyl-2-hydroxyethyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.64 g) in tetrahydrofuran were added 2,6-lutidine (0.22 mL) and tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.43 mL) at 0° C. The reaction mixture was stirred at 0° C. for 3 hr, diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.52 g, 75%).

reactant | 4′-{[4-(2-cyclohexyl-2-hydroxyethyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 15 mL, 0.64 g | C1(CCCCC1)C(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)O | C31H35N5O2
reactant | 2,6-lutidine | 0.22 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.43 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-2-cyclohexylethyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.52 g, 75% | [Si](C)(C)(C(C)(C)C)OC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C2CCCCC2 | C37H49N5O2Si
